US06107458
A mixture of 6-Heptyloxynaphthalen-2-carboxylic acid (1.00 g) and thionyl chloride (5 ml) was stirredn for 18 hours at ambient temparature, and concentrated under reduced pressure to give crude 6-hepthyloxy-2-naphthoyl chloride. To a mixture of ethyl isonipecotinate (605 mg), triethylamine (425 mg) and N,N-dimethylaminopyridine (10 mg) in dichloromethane (10 ml) was added crude 6-heptyloxy-2-naphthoyl chloride, and the mixture was stirred for 2 hours at ambient temperature, and diluted with dichloromethane. The mixture was washed with water, 1N hydrochloric acid and brine, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and filtrate was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel, and eluted with (n-hexane:ethyl acetate=3:1) to give 4-Ethoxycarbonyl-1-(6-heptyloxy-2-naphthoyl)piperidine (1.20 g).

reactant | 6-Heptyloxynaphthalen-2-carboxylic acid | 1.00 g | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C18H22O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 425 mg | C(C)N(CC)CC | C6H15N
reactant | 6-heptyloxy-2-naphthoyl chloride | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C18H21ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Ethoxycarbonyl-1-(6-heptyloxy-2-naphthoyl)piperidine | 1.20 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1=CC2=CC=C(C=C2C=C1)OCCCCCCC | C26H35NO4
